US04466980
96 mg (2.0 mmoles) of 50% sodium hydride was suspended in 5 ml of dry benzene, and 841 mg (4.0 mmoles) of methyl diethylphosphonoacetate was added. The mixture was stirred for 10 minutes. 600 mg (1.91 mmoles) of 4(RS)-t-butyldimethylsilyloxy-2-(4-oxobutylthio)-2-cyclopentenone was dissolved in 10 ml of dry benzene. The solution was stirred under ice cooling. To the resulting solution was added the above reaction mixture. The mixture was stirred further for 15 minutes. The reaction mixture was washed with a saturated aqueous solution of ammonium chloride, and extracted with ethyl acetate. The extract was dried over anhydrous dodium sulfate, and concentrated. The resulting oily product was chromatographed on a silica gel column using hexane/ethyl acetate (8/1) as an eluent to give 531 mg (yield 75%) of 4(RS)-t-butyldimethylsilyloxy-2-(5-methoxycarbonyl-trans-4-pentenylthio)-2-cyclopentenone.

reactant | sodium hydride | 2.0 mmoles, 96 mg | [H-].[Na+]
reactant | methyl diethylphosphonoacetate | 4.0 mmoles, 841 mg | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | 4(RS)-t-butyldimethylsilyloxy-2-(4-oxobutylthio)-2-cyclopentenone | 1.91 mmoles, 600 mg | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)SCCCC=O | C15H26O3SSi
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4(RS)-t-butyldimethylsilyloxy-2-(5-methoxycarbonyl-trans-4-pentenylthio)-2-cyclopentenone | 531 mg, yield 75% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)SCCC\C=C\C(=O)OC | C18H30O4SSi
